US07241785B2
A mixture of methyl (3-hydroxy-1-methyl-1H-pyrazol-4-yl)acetate (298 mg), 2-(5-chloromethyl-3-isoxazolyloxymethyl)quinoline (481 mg), potassium carbonate (484 mg) and N,N-dimethylformamide (10 ml) was stirred at 60° C. for 4 hrs. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and methyl [1-methyl-3-[3-(2-quinolylmethoxy)-5-isoxazolylmethoxy]-1H-pyrazol-4-yl]acetate (676 mg, yield 95%) was obtained as a colorless oil from a fraction eluted with ethyl acetate-hexane (2:1, volume ratio).

reactant | methyl (3-hydroxy-1-methyl-1H-pyrazol-4-yl)acetate | 298 mg | OC1=NN(C=C1CC(=O)OC)C | C7H10N2O3
reactant | 2-(5-chloromethyl-3-isoxazolyloxymethyl)quinoline | 481 mg | ClCC1=CC(=NO1)OCC1=NC2=CC=CC=C2C=C1 | C14H11ClN2O2
reactant | potassium carbonate | 484 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl [1-methyl-3-[3-(2-quinolylmethoxy)-5-isoxazolylmethoxy]-1H-pyrazol-4-yl]acetate | 676 mg, yield 95% | CN1N=C(C(=C1)CC(=O)OC)OCC1=CC(=NO1)OCC1=NC2=CC=CC=C2C=C1 | C21H20N4O5
